US05013841
A mixture of 1.54 g of ethyl 1-cyclopropyl-5,6,7-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 8 ml of glacial acetic acid, 6 ml of water and 1 ml of conc. sulfuric acid was stirred at 120° C. for 1.5 hours. After cooling, the crystals which precipitated were collected by filtration, and washed successively with water and ethanol to give 1.34 g of 1-cyclopropyl-5,6,7-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as colorless needles. m.p. 295°-297° C. (decomp.)

reactant | ethyl 1-cyclopropyl-5,6,7-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.54 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 6 ml | O | H2O
product | 1-cyclopropyl-5,6,7-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.34 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
